US04309422
Preparation of S-Ethyl S-Propyl O-[2-(4-Nitrobenzoylhydrazonomethyl)phenyl] Trithiophosphate
A solution of S-ethyl S-propyl O-(2-formylphenyl) trithiophosphate (0.02 mole) in methanol (50 ml) and 4-nitrobenzoylhydrazine (0.02 mole) are charged into a glass reaction vessel and the mixture is stirred at room temperature for a period of about 12 hours. After this time the reaction mixture is stripped of methanol under vacuum and the residue is dissolved in methylene chloride (100 ml) and the resulting solution is washed with water (75 ml), with aqueous sodium hydroxide (75 ml; 0.1 N) and again with water (75 ml). The washed solution is then dried over anhydrous magnesium sulfate, filtered and stripped of solvent to yield the desired product S-ethyl S-propyl O-[2-(4-nitrobenzoylhydrazonomethyl)phenyl] trithiophosphate.

reactant | S-ethyl S-propyl O-(2-formylphenyl) trithiophosphate | 0.02 mole | P(=S)(SCC)(SCCC)OC1=C(C=CC=C1)C=O | C12H17O2PS3
reactant | 4-nitrobenzoylhydrazine | 0.02 mole | [N+](=O)([O-])C1=CC=C(C(=O)NN)C=C1 | C7H7N3O3
solvent | methanol | 50 ml | CO | CH4O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | S-ethyl S-propyl O-[2-(4-nitrobenzoylhydrazonomethyl)phenyl] trithiophosphate | P(=S)(SCC)(SCCC)OC1=C(C=CC=C1)C=NNC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C19H22N3O4PS3
